US04820712
N-(tert.-butyloxycarbonyl)-L-valine methyl ester (4b)
This compound was prepared in quantitative yield from the hydrochloride of L-valine methyl ester (25.2 g. 0.15 mol) by treatment with di-tert.-butyl pyrocarbonate following the procedure that has been described earlier1,2. TLC Rf 0.85 (eluent MeOH/CHCl3, 3/97). 1H NMR (CDCl3) δ 0.87 and 0.98 (dd, J=2 Hz, 6H, CH3CHCH3), 1.45 (s, 9H, t-Bu), 1.77-2.37 (m, 1H, CH3CHCHC3), 3.75 (s, 3H, CO2CH3), 4.01-4.37 (m, 1H, CHCO2CH3), 4.90-5.29 (m, 1H, NH).

reactant | hydrochloride | Cl | ClH
reactant | L-valine methyl ester | 0.15 mol, 25.2 g | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | di-tert.-butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(tert.-butyloxycarbonyl)-L-valine methyl ester | quantitative yield | COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C11H21NO4
